US07659279B2
The crude tert-butyl (2R)-2-{[(7-(benzyloxy)-3-{[(2,2-dimethylpropanoyl)oxy]-methyl}4-oxo-3,4-dihydroquinazolin-5-yl)oxy]methyl}pyrrolidine-1-carboxylate (assumed 18 g) was dissolved in 7N ammonia in methanol and stirred at room temperature for 16 hours. The reaction mixture was concentrated in vacuo and purified by column chromatography using 0-10% methanol in DCM as eluent to give a mixture of two products. The mixture was dissolved in DCM, washed with 20% aqueous sodium hydroxide solution (2×) and then dried (MgSO4) and concentrated in vacuo to leave tert-butyl (2R)-2-({[7-(benzyloxy)-4-oxo-3,4-dihydroquinazolin-5-yl]oxy}methyl)pyrrolidine-1-carboxylate as a beige foam (6.8 g, 48% for the two steps); Mass spectrum MH+ 452.

reactant | tert-butyl (2R)-2-{[(7-(benzyloxy)-3-{[(2,2-dimethylpropanoyl)oxy]-methyl}4-oxo-3,4-dihydroquinazolin-5-yl)oxy]methyl}pyrrolidine-1-carboxylate | 18 g | C(C1=CC=CC=C1)OC1=CC(=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C31H39N3O7
solvent | ammonia | 7N | N | H3N
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl (2R)-2-({[7-(benzyloxy)-4-oxo-3,4-dihydroquinazolin-5-yl]oxy}methyl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC1=CC(=C2C(NC=NC2=C1)=O)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C25H29N3O5
